US07846960B2
5-Methoxy-2-propyl-benzoic Acid Methyl Ester
To an ambient temperature suspension of 10% palladium on carbon (245 mg) in MeOH (5 mL) is added a solution of 2-Allyl-5-methoxy-benzoic acid methyl ester (440 mg, 2.13 mmol) in MeOH (5 mL) in one portion. The reaction is placed under an atmosphere of hydrogen gas and is stirred overnight. The reaction mixture is filtered through Celite® and concentrated to yield the title compound (361 mg, 81%). 1H NMR (400 MHz, CDCl3) δ 7.38 (d, 1H, J=3.1 Hz), 7.15 (d, 1H, J=8.4 Hz), 6.97 (dd, 1H, J=8.6, 2.9 Hz), 3.89 (s, 3H), 3.82 (s, 3H), 2.88-2.82 (m, 2H), 1.65-1.53 (m, 2H), 0.95 (t, 3H, J=7.5 Hz).

reactant | 2-Allyl-5-methoxy-benzoic acid methyl ester | 2.13 mmol, 440 mg | COC(C1=C(C=CC(=C1)OC)CC=C)=O | C12H14O3
catalyst | palladium on carbon | 245 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Methoxy-2-propyl-benzoic Acid Methyl Ester | 361 mg, 81% | COC(C1=C(C=CC(=C1)OC)CCC)=O | C12H16O3
